US05480884
2-Isopropylamino-5-carboxypyrimidine
6 ml of a 1N solution of sodium hydroxide are added to a solution of 2-isopropylamino-5-methoxycarbonylpyrimidine (1 g; 5.12 mmol) in 33 ml of methanol. The mixture is refluxed (66° C.) for two hours. A minimum of water is added in order to dissolve the precipitate which forms; the methanol is evaporated under reduced pressure. The remaining solution is acidified at 0° C. with 2N hydrochloric acid. The precipitate obtained is filtered, washed with water and then dried to give 850 mg (92%) of acid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-isopropylamino-5-methoxycarbonylpyrimidine | 5.12 mmol, 1 g | C(C)(C)NC1=NC=C(C=N1)C(=O)OC | C9H13N3O2
reactant | water | O | H2O
solvent | methanol | 33 ml | CO | CH4O
product | 2-Isopropylamino-5-carboxypyrimidine | 850 mg, 92% | C(C)(C)NC1=NC=C(C=N1)C(=O)O | C8H11N3O2
